US08440689B2
(R)-2-(4-Chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide
A mixture of 4,6-dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one (200 mg, 0.539 mmol), (R)-2-amino-4-methylpentanamide (140 mg, 1.078 mmol), and N-isopropyl-N-methylpropan-2-amine (310 mg, 2.69 mmol) in acetonitrile (2 mL) was stirred at 85° C. for 3 d. The resulting crude material was reconstituted in MeOH/DCM/DMF (10.0 mL) and purified via preparative HPLC. The fractions were collected and stripped to dryness via rotary evaporation to yield the title compound (83 mg, 33%). [M+H] calc'd for C22H26ClFN4O4, 465. found, 465.

reactant | 4,6-dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 0.539 mmol, 200 mg | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)Cl | C16H13Cl2FN2O3
reactant | (R)-2-amino-4-methylpentanamide | 1.078 mmol, 140 mg | N[C@@H](C(=O)N)CC(C)C | C6H14N2O
reactant | N-isopropyl-N-methylpropan-2-amine | 2.69 mmol, 310 mg | C(C)(C)N(C(C)C)C | C7H17N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | MeOH DCM DMF | 10.0 mL | CO.C(Cl)Cl.CN(C)C=O
product | (R)-2-(4-Chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-3-oxo-2,3-dihydro-1H-pyrrolo[3,4-c]pyridin-6-ylamino)-4-methylpentanamide | 83 mg, 33% | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)N[C@@H](C(=O)N)CC(C)C | C22H26ClFN4O4
